US05652213
A. 2-(N-methyl-N-butylamino)ethanol Hydrochloride
Hydrochloric acid (gas) was bubbled through a solution of 10.0 g (0.0762 mmol) of 2-(N-methyl-N-butylamino)ethanol in diethyl ether. The resultant solution was concentrated in vacuo to provide a gold oil.

reactant | Hydrochloric acid | Cl | ClH
reactant | 2-(N-methyl-N-butylamino)ethanol | 0.0762 mmol, 10.0 g | CN(CCCC)CCO | C7H17NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(N-methyl-N-butylamino)ethanol Hydrochloride | Cl.CN(CCCC)CCO | InChI=1S/C7H17NO.ClH/c1-3-4-5-8(2)6-7-9;/h9H,3-7H2,1-2H3;1H
